US06156776
To a solution of the crude product of 4-fluorothiobenzamide (2.0 g, 12.9 mmol) in EtOH (30 ml) is added 2-bromo-4' methylacetophenone (2.75 g, 12.9 mmol). The mixture is heated to reflux for 24 hours. The course of the reaction is followed by thin layer chromatography. Upon completion of the reaction the solution is cooled to room temperature and the white precipitate filtered and dried under vacuum to yield 2-(4'-fluorophenyl)-4-(p-tolyl) thiazole (1.54 g, 54%).

reactant | 4-fluorothiobenzamide | 12.9 mmol, 2.0 g | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
reactant | 2-bromo-4' methylacetophenone | 12.9 mmol, 2.75 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
solvent | EtOH | 30 ml | CCO | C2H6O
product | 2-(4'-fluorophenyl)-4-(p-tolyl) thiazole | 1.54 g, 54% | FC1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C=C1)C | C16H12FNS
